US09145376B2
2-cyanoethanethioamide (501 mg, 5.00 mmol) and bromoethane (448 μL, 6.00 mmol) were added an ethanolic solution of sodium ethoxide (6.00 mmol, 3 mL). The resulting mixture was stirred for 6 hours, 2-amino-5-chlorobenzoic acid (858 mg, 5.00 mmol) was added, and the reaction was refluxed overnight with stirring. A solid precipitate formed upon cooling of the reaction mixture, which was recovered by vacuum filtration and washed sequentially with ethanol, water, ethanol, and diethyl ether. The solid was then dried to yield 2-(6-chloro-4-oxo-1,4-dihydroquinazolin-2-yl)acetonitrile (314 mg, 29%). 1H NMR (500 MHz, DMSO-d6) δ ppm 4.18 (s, 2H), 7.70 (d, J=8.8 Hz, 1H), 7.85 (dd, J1=8.7 Hz, J2=2.0 Hz, 1H) 8.03 (d, J=2.4 Hz, 1H).

reactant | 2-cyanoethanethioamide | 5.00 mmol, 501 mg | C(#N)CC(N)=S | C3H4N2S
reactant | bromoethane | 6.00 mmol, 448 μL | BrCC | C2H5Br
reactant | sodium ethoxide | 6.00 mmol, 3 mL | [O-]CC.[Na+]
reactant | 2-amino-5-chlorobenzoic acid | 5.00 mmol, 858 mg | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
product | 2-(6-chloro-4-oxo-1,4-dihydroquinazolin-2-yl)acetonitrile | 314 mg, 29% | ClC=1C=C2C(N=C(NC2=CC1)CC#N)=O | C10H6ClN3O
